US06579879B2
Step B: 6-(5-Chloro-3-methyl-benzothiophene-2-sulfonyl)-2H-pyridazin-3-one.
A mixture of 3-methoxy-6(5-chloro-3-methyl-benzothiophene-2-sulfonyl)-pyridazine, (0.55 mmol, 197 mg), conc. HCl (1 mL), and dioxane (3 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (10 mL) was added to the residue and the resulting yellow precipitate, 6-(5-chloro-3-methyl-benzothiophene-2-sulfonyl)-2H-pyridazin-3-one, was collected (29%, 55 mg); mp 258° C.-259° C.

reactant | 3-methoxy-6(5-chloro-3-methyl-benzothiophene-2-sulfonyl)-pyridazine | 0.55 mmol, 197 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1SC2=C(C1C)C=C(C=C2)Cl | C14H11ClN2O3S2
reactant | HCl | 1 mL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(5-Chloro-3-methyl-benzothiophene-2-sulfonyl)-2H-pyridazin-3-one | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)C=2C=CC(NN2)=O)C)C1 | C13H9ClN2O3S2
